US07030115B2
N-benzyl-N-(4-bromophenyl)amine
A solution of 4-bromoaniline (1.76 g, 10 mmol) and benzaldehyde (1.06 g, 10 mmol) in dichloroethane (15 mL) was treated with NaBH(OAc)3 (2.32 g, 11 mmol) and glacial acetic acid (1 mL), stirred overnight at room temperature, quenched with 1N NaOH, and extracted with CH2Cl2 (3×50 mL). The combined extracts were washed with water and brine, dried, (Na2SO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 5:1 hexanes/ethyl acetate to provide 2.21 g (84%) of the desired product. MS(ESI) m/e 261.9 (M+H)+, 263.9 (M+H)+.

reactant | 4-bromoaniline | 10 mmol, 1.76 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | benzaldehyde | 10 mmol, 1.06 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH(OAc)3 | 11 mmol, 2.32 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | N-benzyl-N-(4-bromophenyl)amine | 2.21 g, 84% | C(C1=CC=CC=C1)NC1=CC=C(C=C1)Br | C13H12BrN
